US07772268B2
6-Hydroxy-4-methyl-1-(4-trifluoromethylpiperidine-1-carbonyl)-1H-pyrazolo-[3,4-b]pyridin-3-yl 4-methylpiperidine-1-carboxylate
In analogy to example 12, 99.87 mg (0.344 mmol) of 6-hydroxy-4-methyl-1H-pyrazolo[3,4-b]pyridin-3-yl 4-methylpiperidine-1-carboxylate were reacted with 83.4 mg (0.52 mmol) of 4-trifluoromethylpiperidine-1-carbonyl chloride. Yield: 16 mg (10%), M+H+: 470.20.

reactant | 6-hydroxy-4-methyl-1H-pyrazolo[3,4-b]pyridin-3-yl 4-methylpiperidine-1-carboxylate | 0.344 mmol, 99.87 mg | CC1CCN(CC1)C(=O)OC1=NNC2=NC(=CC(=C21)C)O | C14H18N4O3
reactant | 4-trifluoromethylpiperidine-1-carbonyl chloride | 0.52 mmol, 83.4 mg | FC(C1CCN(CC1)C(=O)Cl)(F)F | C7H9ClF3NO
product | 6-Hydroxy-4-methyl-1-(4-trifluoromethylpiperidine-1-carbonyl)-1H-pyrazolo-[3,4-b]pyridin-3-yl 4-methylpiperidine-1-carboxylate | CC1CCN(CC1)C(=O)OC1=NN(C2=NC(=CC(=C21)C)O)C(=O)N2CCC(CC2)C(F)(F)F | C21H26F3N5O4
